US07514449B2
6-Morpholin-4-yl-6-oxohexanoic acid
Methyl 6-morpholin-4-yl-6-oxohexanoate (4.60 g) obtained in Reference Example 84(1) is dissolved in methanol (20 ml), and thereto is added a solution of sodium hydroxide (1.61 g) in water (8 ml). The mixture is stirred at room temperature for 19 hours. The reaction solution is concentrated under reduced pressure and the residue is neutralized with 2 N hydrochloric acid. The residue is concentrated under reduced pressure and extracted with chloroform. The organic layer is dried over sodium sulfate and the solvent is concentrated under reduced pressure to give the title compound (4.11 g).

reactant | Methyl 6-morpholin-4-yl-6-oxohexanoate | 4.60 g | N1(CCOCC1)C(CCCCC(=O)OC)=O | C11H19NO4
reactant | sodium hydroxide | 1.61 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | 6-Morpholin-4-yl-6-oxohexanoic acid | 4.11 g | N1(CCOCC1)C(CCCCC(=O)O)=O | C10H17NO4
